US04677115
Step C: Preparation of 6,7-Dihydro-5H-furano[3,2-b]thiopyran-7-one
A mixture of 3-(3-furylthio)propionic acid (4.3 g, 0.025 mol), SUPER CEL® (5 g), and P2O5 (8 g) in toluene (80 ml) was mechanically stirred under N2 at 100° C. After 2 hours, additional P2O5 (8 g) was added and the mixture heated for 3 hours at 100° C. The mixture was filtered, and the solid was washed with hot toluene (3X), and the filtrate concentrated to dryness to yield the product.

reactant | 3-(3-furylthio)propionic acid | 0.025 mol, 4.3 g | O1C=C(C=C1)SCCC(=O)O | C7H8O3S
reactant | P2O5 | 8 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | P2O5 | 8 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 6,7-Dihydro-5H-furano[3,2-b]thiopyran-7-one | O1C=CC=2SCCC(C21)=O | C7H6O2S
